US07067534B1
N-[3-(1-{[6-(2-FLUOROPHENYL)-1H-INDOL-3-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure D and Scheme N using 6-(2-fluorophenyl)-1H-indole and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 470.2 (M+H)+. 5-(4-METHYLPHENOXY)-1H-INDOLE: Prepared by Procedure J and Scheme U using 5-bromo-1H-indole and p-cresol: ESMS m/e: 224.0 (M+H)+.

reactant | 6-(2-fluorophenyl)-1H-indole | FC1=C(C=CC=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | 5-(4-METHYLPHENOXY)-1H-INDOLE | CC1=CC=C(OC=2C=C3C=CNC3=CC2)C=C1 | C15H13NO
reactant | 5-bromo-1H-indole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
product | N-[3-(1-{[6-(2-FLUOROPHENYL)-1H-INDOL-3-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=C(C=CC=C1)C1=CC=C2C(=CNC2=C1)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C30H32FN3O
